US04239760
3.45 g (0.115 mol) of sodium hydride (80% pure) were introduced into a solution of 12.6 g (0.13 mol) of 4-methoxy-pyrazole in 100 ml of absolute dimethylformamide at room temperature and the mixture was subsequently warmed briefly to 60° C. 21.6 g (0.1 mol) of 3,7-dichloro-benzo-1,2,4-triazine 1-oxide were added in portions to the mixture, which had been cooled to room temperature. After the exothermic reaction had subsided, the mixture was subsequently stirred at 30° to 40° C. for a further 3 hours and the reaction product was then precipitated with water. This product was filtered off, stirred in 150 ml of methanol, filtered off again and dried. 17.3 g of 3-(4-methoxypyrazol-1-yl)-7-chloro-benzo-1,2,4-triazine 1-oxide of melting point 253°-255° C. (with decomposition) were obtained, that is to say 62.3% of theory. The compound could be recrystallized from dimethylformamide.

reactant | sodium hydride | 0.115 mol, 3.45 g | [H-].[Na+]
reactant | 4-methoxy-pyrazole | 0.13 mol, 12.6 g | COC=1C=NNC1 | C4H6N2O
reactant | 3,7-dichloro-benzo-1,2,4-triazine 1-oxide | 0.1 mol, 21.6 g | ClC=1N=[N+](C2=C(N1)C=CC(=C2)Cl)[O-] | C7H3Cl2N3O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-(4-methoxypyrazol-1-yl)-7-chloro-benzo-1,2,4-triazine 1-oxide | 17.3 g | COC=1C=NN(C1)C=1N=[N+](C2=C(N1)C=CC(=C2)Cl)[O-] | C11H8ClN5O2
